US07569600B2
A suspension of 3-amino-thiophene-2-carboxylic acid methyl ester (5.0 g, 31.85 mmol) in dry THF (9 mL) was treated with 1,4-cyclohexanedione monoethylene ketal (5.0 g, 32.05 mmol), followed by dibutyltin dichloride (482 mg, 1.59 mmol). After 5 min, phenyl silane (4.3 mL, 34.96 mmol) was added and the reaction mixture was stirred overnight at room temperature. After concentration, the residue was dissolved in EtOAc and washed with NaHCO3 followed by brine. The organic layer was separated, dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography using 30% ethyl acetate in hexane as eluent to give 3-(1,4-dioxa-spiro[4.5]dec-8-ylamino)-thiophene-2-carboxylic acid methyl ester (4.5 g, 47% yield).

reactant | 3-amino-thiophene-2-carboxylic acid methyl ester | 31.85 mmol, 5.0 g | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | 1,4-cyclohexanedione monoethylene ketal | 32.05 mmol, 5.0 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | dibutyltin dichloride | 1.59 mmol, 482 mg | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenyl silane | 34.96 mmol, 4.3 mL | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 3-(1,4-dioxa-spiro[4.5]dec-8-ylamino)-thiophene-2-carboxylic acid methyl ester | 4.5 g, 47% yield | COC(=O)C=1SC=CC1NC1CCC2(OCCO2)CC1 | C14H19NO4S
